US07396833B2
A 5 mL microwave reaction vessel was charged with 3-iodo-6-nitroindazole (1 mmol), copper (I) cyanide (2 mmol) and N,N-dimethylformamide (3 mL). The vessel was sealed and subjected to microwave irradiation at 185° C. for 600 sec. The reaction mixture was partitioned between ethyl acetate (100 mL) and water (100 ML) and the mixture was filtered through Celite. The organic layer was collected, washed with brine, dried (magnesium sulfate), and concentrated to give 122 mg of a 10/1 mixture of 3-cyano-6-nitroindazole and 6-nitroindazole as a yellow solid. The 10/1 mixture of 3-cyano-6-nitroindazole and 6-nitroindazole was dissolved in 10 N sodium hydroxide and the bright orange solution was heated at 100° C. for 1 h. The mixture was allowed to cool to room temperature and carefully acidified (pH=1) with 3N hydrochloric acid. The solid was isolated and triturated with EtOAc to provide 51 mg of 6-nitroindazole-3-carboxylic acid as a brown solid. The acid was coupled with the bicyclobase according to procedure A.

reactant | 3-iodo-6-nitroindazole | 1 mmol | IC1=NNC2=CC(=CC=C12)[N+](=O)[O-] | C7H4IN3O2
reactant | copper (I) cyanide | 2 mmol | [Cu]C#N
reactant | 3-cyano-6-nitroindazole | C(#N)C1=NNC2=CC(=CC=C12)[N+](=O)[O-] | C8H4N4O2
reactant | 6-nitroindazole | [N+](=O)([O-])C1=CC=C2C=NNC2=C1 | C7H5N3O2
reactant | hydrochloric acid | 3N | Cl | ClH
reactant | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | sodium hydroxide | 10 N | [OH-].[Na+]
product | 6-nitroindazole-3-carboxylic acid | 51 mg | [N+](=O)([O-])C1=CC=C2C(=NNC2=C1)C(=O)O | C8H5N3O4
